US07001899B2
Preparation of isoquinoline-1-carboxylic acid {1-[(2-hydroxy-5-oxo-tetra-hydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide (7):
To a solution of isoquinoline-1-carboxylic acid {1-[(2-ethoxy-5-oxo-tetra-hydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide, 6, from above in CH3CN/H2O is added trifluoroacetic acid. After stirring for 30 minutes the solution is concentrated in vacuo and the crude product purified by preparative reverse phase HPLC to afford the desired product.

reactant | isoquinoline-1-carboxylic acid {1-[(2-ethoxy-5-oxo-tetra-hydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide | C(C)OC1OC(CC1NC(=O)CN1C(C(CC=CC1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C24H26N4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH3CN H2O | CC#N.O
product | isoquinoline-1-carboxylic acid {1-[(2-hydroxy-5-oxo-tetra-hydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide | OC1OC(CC1NC(=O)CN1C(C(CC=CC1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C22H22N4O6
